US05846995
(+)-N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)pyridine-4-carboxamide
Beginning with 0.100 gm (0.30 mMol) of (+)-N,N-dimethyl-8-(tert-butoxycarbonyl)amino-1,2,3,4-tetrahydro-2-dibenzofuranamine and 0.100 gm (0.56 mMol) of isonicotinoyl chloride hydrochloride, 0.036 gm (36%) of the title compound were recovered in two crops from toluene/hexane by the procedure described in Example 24.

reactant | (+)-N,N-dimethyl-8-(tert-butoxycarbonyl)amino-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.30 mMol, 0.100 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)OC(C)(C)C)CC1)C | C19H26N2O3
reactant | isonicotinoyl chloride hydrochloride | 0.56 mMol, 0.100 gm | Cl.C(C1=CC=NC=C1)(=O)Cl
product | (+)-N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)pyridine-4-carboxamide | 0.036 gm, 36% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3=CC=NC=C3)CC1)C | C20H21N3O2
